US06319930B1
Step A: 2-(7-Hydroxynaphth-1-yl)acetic acid
In a 250 ml round-bottomed flask, dissolve 2-(7-methoxynaphth-1-yl)acetic acid in acetic acid. Add hydrobromic acid and reflux the reaction mixture for 4 hours. Remove the acetic acid and hydrobromic acid by evaporation under reduced pressure. Take up the solid in water and suction it off. Wash the precipitate with petroleum ether and recrystallise it from toluene.

reactant | hydrobromic acid | Br | BrH
reactant | 2-(7-methoxynaphth-1-yl)acetic acid | COC1=CC=C2C=CC=C(C2=C1)CC(=O)O | C13H12O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(7-Hydroxynaphth-1-yl)acetic acid | OC1=CC=C2C=CC=C(C2=C1)CC(=O)O | C12H10O3
